US09290454B2
CDI (13.50 mg, 0.083 mmol) was added to a stirred, room temperature mixture of (R)-5-(2-(4-fluorophenyl)-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid (28 mg, 0.055 mmol) in tetrahydrofuran (2 mL) and the mixture was stirred at 70° C. for 2 h. DBU (0.017 mL, 0.111 mmol) and cyclopropylsulfonamide (10.09 mg, 0.083 mmol) were added, the resultant mixture was kept stirring at room temperature overnight. The mixture was concentrated, and the residue was purified via PTLC (Emerck 1 mm), eluted with CH2Cl2/MeOH=10:1 to give (R)-3-(5-(cyclopropanesulfonamido)-5-oxopentyl)-2-(4-fluorophenyl)-N-(1-(4-fluorophenyl)ethyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxamide (16 mg) as a white solid. LCMS [M+H]+=608. 1H NMR (500 MHz, DMSO) δ ppm: 9.06 (d, J=7.88 Hz, 1H), 8.20 (d, J=8.20 Hz, 1H), 8.15 (s, 1H), 7.36-7.50 (m, 6H), 7.18 (t, J=8.99 Hz, 2H), 6.69 (s, 1H), 5.22 (t, J=7.25 Hz, 1H), 3.16-3.19 (m, 1H), 2.87-2.94 (m, 1H), 2.26 (br. s, 2H), 2.16 (br. s, 2H), 1.51 (d, J=7.25 Hz, 3H), 1.43 (br. s, 3H), 0.98-1.05 (m, 4H).

reactant | CDI | 0.083 mmol, 13.50 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (R)-5-(2-(4-fluorophenyl)-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid | 0.055 mmol, 28 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)O)C(N[C@H](C)C1=CC=C(C=C1)F)=O)=O | C29H26F2N2O4
reactant | DBU | 0.111 mmol, 0.017 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | cyclopropylsulfonamide | 0.083 mmol, 10.09 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (R)-3-(5-(cyclopropanesulfonamido)-5-oxopentyl)-2-(4-fluorophenyl)-N-(1-(4-fluorophenyl)ethyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxamide | 16 mg | C1(CC1)S(=O)(=O)NC(CCCCC=1N(C(C2=CC=C(C=C2C1)C(=O)N[C@H](C)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)=O | C32H31F2N3O5S
